US07297715B2
To a solution of methyl 2-(4-hydroxyphenoxy)-2-methylbutanoate (5 g, 22.32 mmol) in 30 mL DMF was added cesium carbonate (8.7 g, 26.7 mmol) followed by benzyl 3-bromopropyl ether (7.7 g, 33.6 mmol). The solution was stirred at 45° C. for 24 hr, cooled and poured over water. Extraction with AcOEt followed by washing the extracts with water, drying over anhydrous Na2SO4 and concentrating under reduced pressure gave the crude residue. Purification over silica gel using AcOEt/hexanes furnished the desired alkylated derivative (8.25 g). This product was taken up in MeOH (75 mL) and hydrogenated over 10% Pd/C at 40 psi to provide methyl 2-(4-(3-hydroxypropoxy)phenoxy)-2-methylbutanoate (6.23 g, quantitative).

reactant | methyl 2-(4-hydroxyphenoxy)-2-methylbutanoate | 22.32 mmol, 5 g | OC1=CC=C(OC(C(=O)OC)(CC)C)C=C1 | C12H16O4
reactant | cesium carbonate | 26.7 mmol, 8.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl 3-bromopropyl ether | 33.6 mmol, 7.7 g | BrCCCOCC1=CC=CC=C1 | C10H13BrO
reactant | water | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 75 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | methyl 2-(4-(3-hydroxypropoxy)phenoxy)-2-methylbutanoate | 6.23 g | OCCCOC1=CC=C(OC(C(=O)OC)(CC)C)C=C1 | C15H22O5
